US05736534
4-(4-Bromo-7-methyl-2,3-dihydro-indol-1-yl)-7-methoxy-quinazoline
Utilizing a procedure analogous to that described in Example 1, this product was prepared in 69% yield from 4-bromo-7-methyl-indoline (1.1 eq.), and 4-chloro-7-methoxy-quinazoline (1.0 eq) in i-PrOH. (M.P. 134°-135° C.; LC-MS: 370, 372 (MH+); anal. RP18-HPLC RT: 5.60 min.).

reactant | 4-bromo-7-methyl-indoline | 1.1 eq. | BrC1=C2CCNC2=C(C=C1)C | C9H10BrN
reactant | 4-chloro-7-methoxy-quinazoline | 1.0 eq | ClC1=NC=NC2=CC(=CC=C12)OC | C9H7ClN2O
solvent | i-PrOH | CC(C)O | C3H8O
product | 4-(4-Bromo-7-methyl-2,3-dihydro-indol-1-yl)-7-methoxy-quinazoline | 69% yield | BrC1=C2CCN(C2=C(C=C1)C)C1=NC=NC2=CC(=CC=C12)OC | C18H16BrN3O
